US04504667
B. Preparation of Zinc Pyridine-2-thiol-N-oxide
The pH of the filtrate from A (contains about 0.20 mole sodium pyridine-2-thiol-N-oxide) was adjusted to 6.5 and a 20% zinc sulfate solution added until no free sodium 2-thiol-N-oxide was detected (via a ferric chloride test). The mixture was stirred 0.5 hours, filtered and washed with water. The "wet cake" was used for color determination using a Hunter Lab Color/Difference Meter D 25DZ, according to AATCC test method 110-1972. A portion was dried and analyzed via titration.

reactant | sodium pyridine-2-thiol-N-oxide | about 0.20 mole | [N+]=1(C(=CC=CC1)S)[O-].[Na]
reactant | zinc sulfate | S(=O)(=O)([O-])[O-].[Zn+2]
product | Zinc Pyridine-2-thiol-N-oxide | [N+]=1(C(=CC=CC1)S)[O-].[Zn] | InChI=1S/C5H5NOS.Zn/c7-6-4-2-1-3-5(6)8;/h1-4,8H;
